US08492378B2
N-methyl-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-amine
In the same manner as in Example 110 and using 2-(methylsulfonyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole instead of 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole and using 2M methylamine-tetrahydrofuran solution instead of 3-fluorobenzylalcohol, the title compound (yield 67%) was obtained as colorless crystals.

reactant | 2-(methylsulfonyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | CS(=O)(=O)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C18H11F3N2O5S
reactant | methylamine tetrahydrofuran | 2M | CN.O1CCCC1
product | N-methyl-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-amine | yield 67% | CNC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C18H12F3N3O3
